US05290939
In the course of 30 minutes, at 25° to 30°, with the exclusion of air, 50 g of [(3-bromo-2-[(1-ethoxycarbonylpiperid-4-yl)carbonyloxy]-5-methoxy-phenyl)methyl]-triphenyl-phosphonium chloride are introduced into a suspension of 20 g of ground potassium carbonate (anhydrous) in 100 ml of acetonitrile. The mixture is stirred for 2 hours at room temperature, then 80 ml of water are added thereto, and the mixture is acidified to pH 1.0 with concentrated hydrochloric acid. The organic phase is separated off and concentrated by evaporation. The oily residue is taken up in 50 ml of toluene and at 20°, in the course of 1 hour, 100 ml of hexane are added; the major portion (approx. 90%; content according to HPLC: 90%) of the triphenylphosphane oxide that forms crystallises out. The crystal suspension is filtered with suction and the filter cake is washed twice with 40 ml of hexane/toluene (3:2) each time. Concentration of the combined filtrates by evaporation and chromatography of the residue on silica gel with toluene/ethyl acetate (2:1) as eluant yield 4-(7-bromo-5-methoxy-benzofuran-2-yl)-1-ethoxycarbonyl-piperidine [m.p.: 85°; 1H-NMR (360 MHz, CDCl3): 1.28 (t, 3H, CO2CH2CH3), 1.69 (m, 2H), 2.09 (m, 2H), 2.95 (m, 3H), 3.80 (s, 3H, OCH3), 4.16 (q, 2H, CO2CH2CH3), 4.14 to 4.35 (br. m, 2H), 6.36 (s, 1H), 6.90 (d, 1H), 7.00 (d, 1H) ppm]; yield 90% of the theoretical yield.

reactant | [(3-bromo-2-[(1-ethoxycarbonylpiperid-4-yl)carbonyloxy]-5-methoxy-phenyl)methyl]-triphenyl-phosphonium chloride | 50 g | [Cl-].BrC=1C(=C(C=C(C1)OC)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)OC(=O)C1CCN(CC1)C(=O)OCC
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | water | 80 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 4-(7-bromo-5-methoxy-benzofuran-2-yl)-1-ethoxycarbonyl-piperidine | yield 90% | BrC1=CC(=CC=2C=C(OC21)C2CCN(CC2)C(=O)OCC)OC | C17H20BrNO4
